US07262201B1
A suspension of 4-chloro-6-methoxy-7-(1-(2-methylsulphonylethyl)piperidin-4-ylmethoxy)quinazoline (115 mg, 0.28 mol) and 3-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one (65 mg, 0.33 mol), (prepared as described for the starting material in Example 10), in DMF (1.5 ml) containing potassium carbonate (60 mg, 0.42 mol) was heated at 100° C. for 30 minutes. After cooling, water was added. The precipitate was collected by filtration, washed with water and dried under vacuum. The solid was dissolved in methylene chloride/methanol and pentane was added. The precipitate was collected by filtration, washed with pentane and dried under vacuum to give 4-(5-(4-methoxyphenyl)pyrazol-3-yloxy)-6-methoxy-7-(1-(2-methylsulphonylethyl)piperidin-4-ylmethoxy)quinazoline (120 mg, 75%).

reactant | 4-chloro-6-methoxy-7-(1-(2-methylsulphonylethyl)piperidin-4-ylmethoxy)quinazoline | 0.28 mol, 115 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)CCS(=O)(=O)C | C18H24ClN3O4S
reactant | 3-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one | 0.33 mol, 65 mg | COC1=CC=C(C=C1)C1=NNC(C1)=O | C10H10N2O2
reactant | potassium carbonate | 0.42 mol, 60 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 4-(5-(4-methoxyphenyl)pyrazol-3-yloxy)-6-methoxy-7-(1-(2-methylsulphonylethyl)piperidin-4-ylmethoxy)quinazoline | 120 mg, 75% | COC1=CC=C(C=C1)C1=CC(=NN1)OC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)CCS(=O)(=O)C | C28H33N5O6S
